US07411072B2
4-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-3,5-dimethyl-isoxazole
Following procedures essentially as described in Example 225 and using 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid (100 mg, 307 mmol) and 4-bromo-3,5-dimethylisoxazole (81 mg, 0.460 mmol), provides the title compound in 2% yield. MS (ES) 378 (M+H); HPLC shows 94% purity.

reactant | 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid | 307 mmol, 100 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)B(O)O | C22H19BO2
reactant | 4-bromo-3,5-dimethylisoxazole | 0.460 mmol, 81 mg | BrC=1C(=NOC1C)C | C5H6BrNO
product | 4-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-3,5-dimethyl-isoxazole | 2% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)C=3C(=NOC3C)C | C27H23NO
